US06716851B2
4-(3-Methylmercaptoanilino)-2-(2-pyridinyl)-6-(trifluoromethyl)pyrimidine
The title compound was prepared from a mixture of 4-chloro-2-(2-pyridinyl)-6-(trifluoromethyl)pyrimidine (25 mg, 0.096 mmol) and 3-(methylmercapto)aniline (18 μl, 0.144 mmol) similar to Example 92 and isolated as a yellow solid (21 mg, 58%). 1H NMR (CDCl3): 8.87-8.85 (m, 1H), 8.58 (d, J=7.8 Hz, 1H), 7.93-7.88 (m, 1H), 7.61 (s, 1H), 7.48-7.44 (m, 1H), 7.36 (t, J=7.8 Hz, 1H), 7.25 (s, 1H), 7.17-7.14 (m, 1H), 7.10-7.06 (m, 1H), 7.01 (s, 1H), 2.52 (s, 3H).

reactant | 4-chloro-2-(2-pyridinyl)-6-(trifluoromethyl)pyrimidine | 0.096 mmol, 25 mg | ClC1=NC(=NC(=C1)C(F)(F)F)C1=NC=CC=C1 | C10H5ClF3N3
reactant | 3-(methylmercapto)aniline | 0.144 mmol, 18 μl | CSC=1C=C(N)C=CC1 | C7H9NS
product | 4-(3-Methylmercaptoanilino)-2-(2-pyridinyl)-6-(trifluoromethyl)pyrimidine | CSC=1C=C(NC2=NC(=NC(=C2)C(F)(F)F)C2=NC=CC=C2)C=CC1 | C17H13F3N4S
